US07432378B2
2-{3-Fluoro-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-4-methyl-1H-benzoimidazole
This compound was prepared by the method described in Example 1, using 3-fluoro-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde (94 mg, 0.34 mmol, 1.0 equiv), 3-methyl-benzene-1,2-diamine (42 mg, 0.34 mmol, 1.0 equiv), and Na2S2O5 (84 mg, 0.44 mmol, 1.3 equiv) in General Procedure 3. Purification by Method 2 afforded 130 mg (100%) of the title compound. MS (electrospray): mass calculated for C22H27FN4O, 382.22; m/z found, 383.2 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.86-7.78 (m, 2H), 7.40-7.37 (m, 1H), 7.12-6.97 (m, 3H), 3.99 (t, J=6.1 Hz, 2H), 3.00-2.30 (m, 13H), 2.25 (s, 3H), 1.94-1.90 (m, 2H).

reactant | 3-fluoro-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde | 0.34 mmol, 94 mg, 1.0 equiv | FC=1C=C(C=O)C=CC1OCCCN1CCN(CC1)C | C15H21FN2O2
reactant | 3-methyl-benzene-1,2-diamine | 0.34 mmol, 42 mg, 1.0 equiv | CC1=C(C(=CC=C1)N)N | C7H10N2
product | 2-{3-Fluoro-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-4-methyl-1H-benzoimidazole | 130 mg, 100% | FC=1C=C(C=CC1OCCCN1CCN(CC1)C)C1=NC2=C(N1)C=CC=C2C | C22H27FN4O
